US04446151
(A) 1-Fluoro-2,5-di-t-butoxycarbonylamino-4-oxo-pentane
1-Fluoro-2,5-di-t-butoxycarbonylamino-4-methylenepentane (800 mg, 2.4 mmoles) prepared as in Example 1, Step F, dissolved in a 1/1 mixture (30 mL) of methanol and methylene chloride is cooled to -78° C. and treated with ozone (flow rate 0.3 L/min) for 6 min and 15 sec. An excess of dimethylsulfide is added (about 2 mL) and then the reaction mixture is allowed to warm up to room temperature. After concentration, the residue is extracted twice with methylene chloride/water and work-up of the organic layer affords 800 mg of an oil which is crystallized from ether/petroleum ether (410 mg, 51%).

reactant | 1-Fluoro-2,5-di-t-butoxycarbonylamino-4-methylenepentane | 2.4 mmoles, 800 mg | FCC(CC(CNC(=O)OC(C)(C)C)=C)NC(=O)OC(C)(C)C | C16H29FN2O4
reactant | ozone | O=[O+][O-] | O3
reactant | dimethylsulfide | CSC | C2H6S
solvent | methanol | 30 mL | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Fluoro-2,5-di-t-butoxycarbonylamino-4-oxo-pentane | 800 mg | FCC(CC(CNC(=O)OC(C)(C)C)=O)NC(=O)OC(C)(C)C | C15H27FN2O5
